US06544976B1
(2S)-Methyl-1-(benzyloxycarbonyl)azetidine-2-carboxylate
(2S)-Methyl azetidine-2-carboxylate (2.83 g, 18.7 mmol, 1.0 eq) was dissolved in dry dichloromethane (100 mL) and cooled to about 0° C. under an argon atmosphere. After the addition of benzyl chloroformate (3.00 mL, 20.0 mmol, 1.1 eq), diisopropyl ethylamine (8.00 mL, 45.9 mmol, 2.5 eq) was added to the mixture dropwise. The reaction mixture was stirred at about 0° C. for about 30 minutes and then at about room temperature overnight. The solvent was evaporated and then the residue was dissolved in ether, washed with 1N HCl, water and brine, dried over magnesium sulfate and concentrated. Flash chromatography (in ether) gave 3.75 g (80% yield) of the product as a colorless oil. 1H NMR (CDCl3) δ 2.19-2.32 (m, 1H); 2.52-2.66 (m, 1H); 3.74 (s, 3H); 3.94-4.03 (m, 1H); 4.08-4.18 (m, 1H); 4.72 (dd, 1H, J=9.4, 6.9); 5.12 (q, 2H, J=12.9); 7.29-7.42 (m, 5H).

reactant | (2S)-Methyl azetidine-2-carboxylate | 18.7 mmol, 2.83 g, 1.0 eq | N1[C@@H](CC1)C(=O)OC | C5H9NO2
reactant | benzyl chloroformate | 20.0 mmol, 3.00 mL, 1.1 eq | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | diisopropyl ethylamine | 45.9 mmol, 8.00 mL, 2.5 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | ether | CCOCC | C4H10O
product | (2S)-Methyl-1-(benzyloxycarbonyl)azetidine-2-carboxylate | 3.75 g, 80% yield | COC(=O)[C@H]1N(CC1)C(=O)OCC1=CC=CC=C1 | C13H15NO4
